US07115766B2
C. Synthesis of 2-Bromomethyl-4-methoxy-1-nitro-benzene (29).
The reaction apparatus consisted of a 50-mL single-necked round-bottom flask equipped with a water-jacketed condensor, magnetic stirrer, and an argon-filled balloon. A solution of 5-methoxy-2-nitrotoluene (0.25 g, 1.50 mmol), carbon tetrachloride (25 mL), a catalytic amount of benzoyl peroxide (25 mg, 0.83 mmol), and N-bromosuccinimide (0.32 g, 1.8 mmol) were added to the reaction flask. The mixture was refluxed and irradiated under a 90-watt lamp (GE watt-miser light bulb, 130 V, 1000 hrs) for 5 h and then cooled to room temperature. The precipitated succinimide was removed by gravity filtration and the filtrate was extracted with sodium metabisulfite (28 M, 1×50 mL) and water (1×50 mL). The organic layer was separated, dried over sodium sulfate, filtered and then evaporated to afford a crude oil (382 mg, 105%). The crude product was chromatographed on silica gel (hexane/EtOAc=9:1) to give the product as yellow crystals (172 mg, 47%): m.p. 64–65° C.

reactant | water | O | H2O
reactant | 5-methoxy-2-nitrotoluene | 1.50 mmol, 0.25 g | COC=1C=CC(=C(C1)C)[N+](=O)[O-] | C8H9NO3
reactant | benzoyl peroxide | 0.83 mmol, 25 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 1.8 mmol, 0.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-4-methoxy-1-nitro-benzene | 172 mg, 47% | BrCC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C8H8BrNO3
